US09234193B2
Determining the Enantiomer of Zingiberene Produced by the Various Genes/Proteins
Activity assays were performed in 20 mL glass vials in a total volume of 500 μL 50 mM HEPES, pH7.2, 100 mM KCl, 7.5 mM MgCl2, 20 μM MgCl2, 5% (v/v) glycerol, 5 mM DTT with 50 μL protein and either 2 mM cis-FPP (2Z-6Z-farnesyl diphosphate), trans-FPP (E-E-farnesyl diphosphate), GPP (geranyl diphosphate), NDP (neryl diphosphate), or GGPP (geranylgeranyl diphosphate) as a substrate (Echelon Biosciences Incorporated, Salt Lake City, USA). Vials were closed with a teflon lined crimp cap immediately and incubated under moderate shaking for 1 hour at 30° C.

reactant | HEPES | 50 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | KCl | 100 mM, pH7.2 | [Cl-].[K+]
reactant | MgCl2 | 7.5 mM | [Mg+2].[Cl-].[Cl-]
reactant | MgCl2 | 20 μM | [Mg+2].[Cl-].[Cl-]
reactant | DTT | 5 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | 2Z-6Z-farnesyl diphosphate | 2 mM | O(P([O-])(=O)OP(=O)([O-])[O-])C\C=C(\C)/CC\C=C(\C)/CCC=C(C)C
reactant | E-E-farnesyl diphosphate | O(P([O-])(=O)OP(=O)([O-])[O-])C\C=C(/C)\CC\C=C(/C)\CCC=C(C)C
reactant | GPP | O(P([O-])(=O)OP(=O)([O-])[O-])C\C=C(/C)\CCC=C(C)C
reactant | NDP | O(P([O-])(=O)OP(=O)([O-])[O-])C\C=C(\C)/CCC=C(C)C
reactant | GGPP | O(P([O-])(=O)OP(=O)([O-])[O-])C\C=C(/C)\CC\C=C(\CC\C=C(/C)\CCC=C(C)C)/C
solvent | glycerol | OCC(O)CO | C3H8O3
product | Zingiberene | CC1=CC[C@@H](C=C1)[C@@H](C)CCC=C(C)C | C15H24
